US04418073
A mixture of 6.3 g (0.05 mol) of 1-isopropyl-4-hydroxy-pyrazole, 5.1 g (0.05 mol) of triethylamine and 200 ml of toluene was added to a solution of 9.2 g (0.05 mol) of bis-(N-methyl-N-fluorocarbonylamino) sulphide in 50 ml of toluene at 0°-5° C. The reaction mixture was subsequently stirred at room temperature for 2 hours, and 11 g of an approximately 45% strength aqueous dimethylamine solution were then added at 15°-20° C. The mixture was subsequently stirred at room temperature for 3 hours, the aqueous phase was separated off and the toluene solution was extracted twice more by shaking with 25 ml of water each time. The organic phase was dried over sodium sulphate and evaporated in vacuo. The residue was subjected to incipient distillation under a high vacuum. 13.5 g (86% of theory) of N-methyl-N-(N-dimethylaminocarbonyl-N-methyl-amino-sulphenyl)-carbamic acid O-(1-isopropyl-pyrazol-4-yl) ester were thus obtained in the form of a light-brown oil with a refractive index nD22 of 1.5192.

reactant | 1-isopropyl-4-hydroxy-pyrazole | 0.05 mol, 6.3 g | C(C)(C)N1N=CC(=C1)O | C6H10N2O
reactant | triethylamine | 0.05 mol, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | bis-(N-methyl-N-fluorocarbonylamino) sulphide | 0.05 mol, 9.2 g | CN(C(=O)F)SN(C(=O)F)C | C4H6F2N2O2S
reactant | dimethylamine | CNC | C2H7N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-(N-dimethylaminocarbonyl-N-methyl-amino-sulphenyl)-carbamic acid O-(1-isopropyl-pyrazol-4-yl) ester | 13.5 g, 86% | C(C)(C)N1N=CC(=C1)OC(N(SN(C)C(=O)N(C)C)C)=O | C12H21N5O3S
